US04031078
82 g of carbobenzoxy-L-alanine are dissolved in 100 ml of absolute tetrahydrofuran, the solution is cooled to -40° C and treated with 80 g of phosphorus pentachloride. The mixture is stirred at -30° C for 20 minutes and subsequently added to a shaken solution of 80 g of 2-amino-5-nitro-2'-chlorobenzophenone in 100 ml of absolute tetrahydrofuran. The solution is concentrated on a rotary evaporator at 50°-60° C, treated twice with toluene and evaporated each time. By crystallisation of the residue from ether, there is obtained (-)-benzyl-[1-[{2-(o-chlorobenzoyl)4-nitrophenyl}carbamoyl]-ethyl]carbamate which melts at 147° C and exhibits a rotation of [α]25D =-18.2° (in methylene chloride, 1%).

reactant | carbobenzoxy-L-alanine | 82 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | phosphorus pentachloride | 80 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-amino-5-nitro-2'-chlorobenzophenone | 80 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H9ClN2O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (-)-benzyl-[1-[{2-(o-chlorobenzoyl)4-nitrophenyl}carbamoyl]-ethyl]carbamate | C(C1=CC=CC=C1)OC(NC(C)C(NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)Cl)=O)=O)=O | C24H20ClN3O6
